US07138425B2
b) 2-[3-(5-Chlorobenzoxazol-2-yl)phenyl]-2,3-dihydro-1,3-dioxo-1H-isoindole-5-carboxylic acid
Prepared by the method of Example 1b), from 2-(3-aminophenyl)-5-chlorobenzoxazole (34 mg, 0.14 mmol) and 1,2,4-benzenetricarboxylic anhydride (30 mg, 0.16 mmol) the title compound was obtained, 38 mg (64%). 1H NMR (DMSO) δ 8.48(dd, 1H), 8.39(bd, 2H), 8.30(dt, 1H), 8.16(d, 1H), 8.00(d, 1H), 7.88(m, 4H), 7.54(dd, 1H). MS 417 m/z (M−H)−.

reactant | 2-(3-aminophenyl)-5-chlorobenzoxazole | 0.14 mmol, 34 mg | NC=1C=C(C=CC1)C=1OC2=C(N1)C=C(C=C2)Cl | C13H9ClN2O
reactant | 1,2,4-benzenetricarboxylic anhydride | 0.16 mmol, 30 mg | C1=CC2=C(C=C1C(=O)O)C(=O)OC2=O | C9H4O5
product | 2-[3-(5-Chlorobenzoxazol-2-yl)phenyl]-2,3-dihydro-1,3-dioxo-1H-isoindole-5-carboxylic acid | ClC=1C=CC2=C(N=C(O2)C=2C=C(C=CC2)N2C(C3=CC=C(C=C3C2=O)C(=O)O)=O)C1 | C22H11ClN2O5
